US07977344B2
8-Bromo-2-[(3-methylbutyl)oxy]-9-(tetrahydro-2H-Pyran-2-yl)-9H-Purin-6-amine
To a solution of 2-[(3-methylbutyl)oxy]-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine (266 mg) in dry chloroform (3.15 mL) at 0° C. was added NBS (163 mg). The reaction was warmed to room temperature and was stirred for 5 h. The reaction was taken up into DCM (20 mL) and extracted with water (20 mL). The organics were separated, dried using a hydrophobic frit and concentrated in vacuo to give the title compound as a green/brown solid (314 mg).

reactant | 2-[(3-methylbutyl)oxy]-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine | 266 mg | CC(CCOC1=NC(=C2N=CN(C2=N1)C1OCCCC1)N)C | C15H23N5O2
reactant | NBS | 163 mg | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | DCM | 20 mL | C(Cl)Cl | CH2Cl2
solvent | chloroform | 3.15 mL | C(Cl)(Cl)Cl | CHCl3
product | 8-Bromo-2-[(3-methylbutyl)oxy]-9-(tetrahydro-2H-Pyran-2-yl)-9H-Purin-6-amine | 314 mg | BrC=1N(C2=NC(=NC(=C2N1)N)OCCC(C)C)C1OCCCC1 | C15H22BrN5O2
